US09416135B2
To a solution of (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (220 mg, 0.627 mmol) in iPrOH (4 mL) and DCM (2 mL) was added 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (421 mg, 1.88 mmol) and DIEA (485 mg, 3.76 mmol). The mixture was stirred at 60° C. overnight. Water (5 mL) was added to the mixture and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic layers were washed with water (2×10 mL) and brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative TLC to afford (R)-methyl 2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (150 mg, 44.4% yield) as a yellow solid.

reactant | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.627 mmol, 220 mg | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
reactant | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 1.88 mmol, 421 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
reactant | DIEA | 3.76 mmol, 485 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 5 mL | O | H2O
solvent | iPrOH | 4 mL | CC(C)O | C3H8O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl 2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 150 mg, 44.4% yield | C(C)(=O)C=1C(=NC(=NC1)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C)C(F)(F)F | C23H24F3N5O5S
